US08455658B2
(2). 2,6-difluoro-N-(4-methyl-5-(2-methyl-5-(oxazol-2-yl)phenyl)thiazol-2-yl)benzamide
N-(5-bromo-4-methylthiazol-2-yl)-2,6-difluorobenzamide (60 mg), 2-(4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)oxazole (70 mg), 2 M NaHCO3 solution (0.5 mL), dichlorobis(benzonitrile)palladium (5 mg) and 1,4-Bis(diphenyl-phosphino)butane (10 mg) were mixed together in 2 mL of toluene in a sealed tube. The resulting suspension was stirred in microwave oven at 170° C. for 1 hour. After the reaction, the mixture was extracted with Et2O. The organic phases were removed under reduced pressure and the residue was chromatographed to give the title compound as a white solid. Yield 27%.

reactant | N-(5-bromo-4-methylthiazol-2-yl)-2,6-difluorobenzamide | 60 mg | BrC1=C(N=C(S1)NC(C1=C(C=CC=C1F)F)=O)C | C11H7BrF2N2OS
reactant | 2-(4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)oxazole | 70 mg | CC1=C(C=C(C=C1)C=1OC=CN1)B1OC(C(O1)(C)C)(C)C | C16H20BNO3
reactant | NaHCO3 | 2 M, 0.5 mL | C(=O)(O)[O-].[Na+]
reactant | 1,4-Bis(diphenyl-phosphino)butane | 10 mg | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | dichlorobis(benzonitrile)palladium | 5 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
product | 2,6-difluoro-N-(4-methyl-5-(2-methyl-5-(oxazol-2-yl)phenyl)thiazol-2-yl)benzamide | Yield 27% | FC1=C(C(=O)NC=2SC(=C(N2)C)C2=C(C=CC(=C2)C=2OC=CN2)C)C(=CC=C1)F | C21H15F2N3O2S
